US05254565
Triethylamine (0.34 ml) was added to a mixture of 6-chloro-4-phenyl-3-quinolinecarboxylic acid (566 mg), diphenylphosphoryl azide (660 ml) and dioxane (10 ml). The mixture was stirred for 15 mins. at room temperature and then for 20 mins. under reflux. After cooling, 2,6-difluoroaniline (310 mg) was added to the mixture. It was stirred for 15 mins. at room temperature and then for 30 mins. under reflux. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water, 1N-hydrochloric acid, water, saturated aqueous solution of sodium hydrogen carbonate and water, successively. After being dried over anhydrous magnesium sulfate, the solvent was distilled off. The residue was recrystallized to give 6-chloro-3-[3-(2,6-difluorophenyl)ureido]-4-phenylquinoline as colorless needles. Yield 562 mg (68.7%). m.p. 228°-229° C.

reactant | Triethylamine | 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-4-phenyl-3-quinolinecarboxylic acid | 566 mg | ClC=1C=C2C(=C(C=NC2=CC1)C(=O)O)C1=CC=CC=C1 | C16H10ClNO2
reactant | diphenylphosphoryl azide | 660 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2,6-difluoroaniline | 310 mg | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 6-chloro-3-[3-(2,6-difluorophenyl)ureido]-4-phenylquinoline | ClC=1C=C2C(=C(C=NC2=CC1)NC(=O)NC1=C(C=CC=C1F)F)C1=CC=CC=C1 | C22H14ClF2N3O
